US08183380B2
7-Methoxy-5-methyl-1-indanon (CAS no: 62358-78-5) (7.70 g, 0.044 mol) was dissolved in ethanol (40 mL) and hydroxylamine hydrochloride (6.23 g, 0.09 mol) and sodium acetate (7.38 g, 0.09 mol) were added. The reaction mixture was heated to reflux for 3 h. Then water (100 mL) was added and a precipitation formed which was filtered. The precipitate was washed with water, isolated and dried under high vacuum to yield 7-methoxy-5-methyl-indan-1-one oxime (8.20 g, 98%) as a white solid; MS: m/e=192.4 (M+H+).

reactant | 7-Methoxy-5-methyl-1-indanon | COC=1C=C(C=C2CCC(C12)=O)C | C11H12O2
reactant | hydroxylamine hydrochloride | 0.09 mol, 6.23 g | Cl.NO
reactant | sodium acetate | 0.09 mol, 7.38 g | C(C)(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 7-methoxy-5-methyl-indan-1-one oxime | 8.20 g, 98% | COC=1C=C(C=C2CCC(C12)=NO)C | C11H13NO2
